US08633183B2
A-46) [5-(4-Chloro-6-ethyl-pyrimidin-5-ylethynyl)-pyridin-2-yl]-ethyl-amine
The title compound is synthesized according to general procedure GP2 starting from 4-chloro-6-ethyl-5-iodo-pyrimidine using 5-Ethynyl-pyridin-2-yl)-ethyl-amine (A-28), CuI, bis-(triphenyl-phoshine)palladium(II) chloride, triethylamine in THF. After work-up the desired compound is obtained in good yield and acceptable purity.

reactant | 4-chloro-6-ethyl-5-iodo-pyrimidine | ClC1=NC=NC(=C1I)CC | C6H6ClIN2
reactant | ethyl-amine | C(C)N | C2H7N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | THF | C1CCOC1 | C4H8O
catalyst | CuI | [Cu]I
catalyst | bis-(triphenyl-phoshine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [5-(4-Chloro-6-ethyl-pyrimidin-5-ylethynyl)-pyridin-2-yl]-ethyl-amine | ClC1=NC=NC(=C1C#CC=1C=CC(=NC1)NCC)CC | C15H15ClN4
